US06710056B2
Ethyl 1-(4-Pyridyl)-piperidine-3-carboxylate:
A mixture of 5 g of ethyl nipecotate, 4.8 g of 4-chloropyridine hydrochloride, 6.6 g of triethylamine and 100 ml of xylene was stirred at 100° C. overnight. The reaction mixture was treated with ethyl acetate as the extracting solvent in an ordinary manner, and the obtained residue was purified by the silica gel chromatography (ethyl acetate/ethanol) to obtain the title compound.

reactant | ethyl nipecotate | 5 g | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 4-chloropyridine hydrochloride | 4.8 g | Cl.ClC1=CC=NC=C1
reactant | triethylamine | 6.6 g | C(C)N(CC)CC | C6H15N
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-(4-Pyridyl)-piperidine-3-carboxylate | N1=CC=C(C=C1)N1CC(CCC1)C(=O)OCC | C13H18N2O2
